US08211908B2
To 0.60 g of 1-(1,3-dioxolan-2-ylmethyl)-1,6-naphthyridin-2(1H)-one, 6 mL of a 90% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at room temperature for 12 hours. Thereto was added 1.0 mL of water, and the mixture was stirred for 1 hour, and stirred at 55 to 75° C. for 3 hours 30 minutes. The solvent was distilled off under reduced pressure, thereto were added a saturated aqueous sodium hydrogen carbonate solution and chloroform, and the mixture was stirred at room temperature for 1 hour 30 minutes. The organic layer was then separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain (2-oxo-1,6-naphthyridin-1(2H)-yl)acetaldehyde.

reactant | 1-(1,3-dioxolan-2-ylmethyl)-1,6-naphthyridin-2(1H)-one | 0.60 g | O1C(OCC1)CN1C(C=CC2=CN=CC=C12)=O | C12H12N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 1.0 mL | O | H2O
product | (2-oxo-1,6-naphthyridin-1(2H)-yl)acetaldehyde | O=C1N(C2=CC=NC=C2C=C1)CC=O | C10H8N2O2
